US08293768B2
Synthesis of 2-(3-benzyl-2-oxoimidazolidin-1-yl)-N-(3,4-difluorobenzyl)-4-methylthiazole-5-carboxamide
Following the procedure as describe in Example 9, making variations as required to replace 4-fluorobenzylamine with 3,4-difluorobenzylamine to react with 2-(3-benzyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid, the title compound was obtained as a white powder in 43% yield: mp 152-153° C.; 1H NMR (300 MHz, DMSO-d6) δ 7.36-7.00 (m, 8H), 6.05 (s, 1H), 4.49 (d, J=5.7 Hz, 2H), 4.45 (s, 2H), 4.05 (t, J=8.4 Hz, 2H), 3.44 (t, J=8.4 Hz, 2H), 2.58 (s, 3H); 13C NMR (75 MHz, DMSO-d6) δ 162.5, 157.3, 155.3, 153.6, 152.0, 148.6, 135.2, 128.9, 128.2, 128.1, 123.6, 117.5, 116.8, 116.7, 116.6, 47.9, 42.9, 42.0, 41.6, 17.2; MS (ES+) m/z 443.0 (M+1).

reactant | 4-fluorobenzylamine | FC1=CC=C(CN)C=C1 | C7H8FN
reactant | 3,4-difluorobenzylamine | FC=1C=C(CN)C=CC1F | C7H7F2N
reactant | 2-(3-benzyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid | C(C1=CC=CC=C1)N1C(N(CC1)C=1SC(=C(N1)C)C(=O)O)=O | C15H15N3O3S
product | 2-(3-benzyl-2-oxoimidazolidin-1-yl)-N-(3,4-difluorobenzyl)-4-methylthiazole-5-carboxamide | 43% yield | C(C1=CC=CC=C1)N1C(N(CC1)C=1SC(=C(N1)C)C(=O)NCC1=CC(=C(C=C1)F)F)=O | C22H20F2N4O2S
